US04447425
17β-Acetyloxy-3β-methyl-16-(1-piperidinyl)-5α-androstan-2-one was treated with piperidine and formic acid, as described in Example I(h), to give 3β-methyl-2β,16β-di-(1-piperidinyl)-5α-androstan-17β-ol.

reactant | 17β-Acetyloxy-3β-methyl-16-(1-piperidinyl)-5α-androstan-2-one | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1N1CCCCC1)[C@@H]1CC[C@H]3C[C@H](C(C[C@]3(C)[C@H]1CC2)=O)C | C27H43NO3
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | formic acid | C(=O)O | CH2O2
product | 3β-methyl-2β,16β-di-(1-piperidinyl)-5α-androstan-17β-ol | C[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C[C@@H]1N1CCCCC1)C)O)N1CCCCC1 | C30H52N2O
